### PR TITLE
[Merged by Bors] - chore: forward port mathlib#18810, 18798, 18738

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
* `algebra.order.sub.defs`, `data.real.nnreal`: leanprover-community/mathlib#18810, which is itself a backport. Also fixes a docstring typo.
* `linear_algebra.matrix.dot_product`: leanprover-community/mathlib#18798
* `data.matrix.basic`: leanprover-community/mathlib#18738

---

* [`data.real.nnreal`@`b3f4f007a962e3787aa0f3b5c7942a1317f7d88e`..`de29c328903507bb7aff506af9135f4bdaf1849c`](https://leanprover-community.github.io/mathlib-port-status/file/data/real/nnreal?range=b3f4f007a962e3787aa0f3b5c7942a1317f7d88e..de29c328903507bb7aff506af9135f4bdaf1849c)
* [`algebra.order.sub.defs`@`70d50ecfd4900dd6d328da39ab7ebd516abe4025`..`de29c328903507bb7aff506af9135f4bdaf1849c`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/order/sub/defs?range=70d50ecfd4900dd6d328da39ab7ebd516abe4025..de29c328903507bb7aff506af9135f4bdaf1849c)
* [`linear_algebra.matrix.dot_product`@`46822d96c0c0a8e58a41a0cba1291620967575c5`..`5ac1dab1670014b4c07a82c86a67f3d064a1b3e1`](https://leanprover-community.github.io/mathlib-port-status/file/linear_algebra/matrix/dot_product?range=46822d96c0c0a8e58a41a0cba1291620967575c5..5ac1dab1670014b4c07a82c86a67f3d064a1b3e1)
* [`data.matrix.basic`@`3e068ece210655b7b9a9477c3aff38a492400aa1`..`0e2aab2b0d521f060f62a14d2cf2e2c54e8491d6`](https://leanprover-community.github.io/mathlib-port-status/file/data/matrix/basic?range=3e068ece210655b7b9a9477c3aff38a492400aa1..0e2aab2b0d521f060f62a14d2cf2e2c54e8491d6)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Sub/Defs.lean
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Sub/Defs.lean:1]: There is a porting note in this file that should now be removed.

File: Mathlib/Data/Matrix/Basic.lean [hunk 1]
```diff
@@ -762,6 +762,25 @@ theorem sum_elim_dotProduct_sum_elim : Sum.elim u x ⬝ᵥ Sum.elim v y = u ⬝
...
+/-- Permuting a vector on the right of a dot product can be transferred to the left. -/
+@[simp]
+theorem dotProduct_comp_equiv_symm (e : n ≃ m) : u ⬝ᵥ x ∘ e.symm = u ∘ e ⬝ᵥ x := by
+  simpa only [Equiv.symm_symm] using (comp_equiv_symm_dotProduct u x e.symm).symm
+#align matrix.dot_product_comp_equiv_symm Matrix.dotProduct_comp_equiv_symm
+
+/-- Permuting vectors on both sides of a dot product is a no-op. -/
+@[simp]
+theorem comp_equiv_dotProduct_comp_equiv (e : m ≃ n) : x ∘ e ⬝ᵥ y ∘ e = x ⬝ᵥ y := by
+  rw [← dotProduct_comp_equiv_symm]; simp only [Function.comp, Equiv.apply_symm_apply]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:781]: This proof isn't the same as the mathport one; what went wrong? Can you add a porting note?

File: Mathlib/Data/Real/NNReal.lean [hunk 2]
```diff
@@ -742,7 +742,7 @@ section Sub
 
 In this section we provide a few lemmas about subtraction that do not fit well into any other
 typeclass. For lemmas about subtraction and addition see lemmas about `OrderedSub` in the file
-`Mathlib.Algebra.Order.Sub.Bsic`. See also `mul_tsub` and `tsub_mul`.
+`Mathlib.Algebra.Order.Sub.Basic`. See also `mul_tsub` and `tsub_mul`.
```
Comment (eric-wieser) [inline Mathlib/Data/Real/NNReal.lean:745]: Good catch, thanks

**Comment by eric-wieser** [comment]
I was just about to forward-port these myself, thanks for saving me the trouble!

File: Mathlib/Data/Matrix/Basic.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/Matrix/Basic.lean:781]: With `simp only [← dotProduct_comp_equiv_symm, Function.comp, Equiv.apply_symm_apply]` I get
```
unsolved goals
l: Type ?u.146570
m: Type u_1
n: Type u_2
o: Type ?u.146579
m': o → Type ?u.146584
n': o → Type ?u.146589
R: Type ?u.146592
S: Type ?u.146595
α: Type v
β: Type w
γ: Type ?u.146602
inst✝²: Fintype m
inst✝¹: Fintype n
inst✝: NonUnitalNonAssocSemiring α
uvw: m → α
xy: n → α
e: m ≃ n
⊢ ((fun x_1 => x (↑e x_1)) ⬝ᵥ fun x => y (↑e x)) = x ⬝ᵥ y
```

Comment (Parcly-Taxel) [reply Mathlib/Data/Matrix/Basic.lean:782]: However I have added the porting note in this file anyway.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:782]: I think the problem is that `Function.comp` is no longer reducible.

In the long run, that means we need copies of these lemmas written with and without `comp`.

I think the porting note is fine for now though.

**Review by eric-wieser — APPROVED** [review]

**Comment by eric-wieser** [comment]
bors merge
